Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
bacitracin / Penicillins
 
Attending: ___.
 
Chief Complaint:
Tachypnea in the setting of new brain lesions 
 
Major Surgical or Invasive Procedure:
Lumbar puncture (___)
Lumbar puncture (___)
Stereotactic brain biopsy (___)
 
History of Present Illness:
___ with hx of hypertension, hyperlipidemia, GERD, gout, 
questionable, carotid stenosis, s/p R THR in ___ complicated by 
prosthetic hip infection requiring revision ___ at ___ 
(completed 6 week course of IV abx ___, stage IA squamous 
cell carcinoma of RUL s/p right upper lobectomy and mediastinal 
lymph node dissection ___, no evidence of disease 
recurrence based on noncontrast chest CT ___, hospitalized 
___ for SOB with extensive evaluation unrevealing, now 
re-presenting with persistent DOE and L sided weakness, found to 
have lesions in left frontal and right occipital lobe concerning 
for metastatic disease vs demyelinating process.  
 
Patient's current course of illness started earlier in ___ at 
rehab after revision of right hip joint. At this time he started 
to feel short of breath, and this sensation slowly progressed 
and got worse until around ___ he started to notice the 
progressive dyspnea daily. At this time he was evaluated by his 
PCP, and per report had a negative ___ and ___ probability 
V/Q scan, and per report had a TTE that showed LVH and possible 
diastolic dysfunction.  
 
After his initial PCP's workup, he continued to feel dyspneic, 
and also began to realize he had a 6 month 20 lb weight loss 
which he attributed to a dental infection requiring implants. As 
his dyspnea progressed, he was admitted from ___ with 
dyspnea on exertion. 

During this hospitalization, extensive evaluation included:  
 -Noncontrast CT chest (in setting of CKD) ___ - No acute 
abnormality, status post R upper lobectomy, no emphysema or 
interstitial disease identified  
 -Nuclear stress test ___ - Borderline exercise nuclear 
SPECT stress test, with possible small mild area of inferior 
ischemic,  
 cannot rule out attentuation artifact  
 -R ___ ___ - negative for DVT  
 -PFTs ___ - FEV1 89%, FEV1/FVC 66%, FVC 97%, DLCO 
80%,interpreted as disproportionally reduced FEF ___ on 
spirometry suggest small airways obstruction, no significant 
improvement with bronchodilator, may be consistent with 
diagnosis of very mild asthma.  
 -ABG with marked respiratory alkalosis, ?anxiety, normal A-A 
gradient  
 
Patient was ultimately discharged without clear reason for 
dyspnea. He subsequently went home, and began to notice LLE 
weakness alongside his dyspnea on exertion. His son noticed 
marked confusion in patient on ___, day after discharge. 
Speaking back with family it appeared that LLE weakness symptoms 
were present for at least ___ weeks, as well as left sided 
facial droop. He presented back to OSH on ___ with these 
symptoms.  
 
On readmission ___ patient was seen by neurology who requested 
MRA and MRI. While MRA was negative, MRI showed lesions 
concerning for metastatic disease in left frontal lobe and right 
parietal lobe, and recommended biopsy at ___ as outpatient, as 
they were uncertain it patient's current neurological symptoms 
(left sided weakness, facial droop, intermittent confusion) were 
due to a chronic demyelinating disease versus metastatic disease 
in brain (of note patient's prior lung cancer was ONLY stage I 
and patient had undergone lobectomy). As family felt 
uncomfortable with plan for discharge home and outpatient brain 
clinic follow up, patient was direct transferred to ___ for 
possible brain biopsy by neurosurgery. In regards to other 
imaging during this hospitalization, he had a CT abd pelvis 
which did not show any primary tumors or lesions to finish his 
staging workup (CT chest was deferred as it was negative on 
___ admission). Of note, given CKD baseline Cr 1.4-1.6, 
patient did not have any of his imaging (MRI brain, MRA head, CT 
abd/pelvis, CT chest) with contrast.  
 
On arrival to the floor, patient reports feeling ok but reports 
that intermittently his left leg has been weak. He says it is 
hard to tell ___ weakness s/p THR and need for cane. In regards 
to his breathing, he says he feels like he "needs to breathe" 
but doesn't feel anything obstructing the back of his throat, an 
denies pain in his mouth at present.  
 
REVIEW OF SYSTEMS:  
 No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits. 
 
Past Medical History:
 Hypertension  
 Hyperlipidemia  
 GERD  
 Gout  
 ?Carotid stenosis - pt has been told in the past, unclear  
 details  
 Stage IA squamous cell carcinoma of RUL, moderately 
differentiated, s/p right upper lobectomy and mediastinal lymph 
node dissection ___, no evidence of disease recurrence 
based on noncontrast chest CT ___  
 S/p R THR ___, complicated by prosthetic joint infection ___ 
requiring washout/revision at ___ ___, course 
of IV abx completed ___ ___ental abscesses diagnosed ___, s/p extraction and 
implants, completed course of clindamycin ___  
 
Social History:
___
Family History:
Father with lymphoma  
Brother with ___ disease  
Mother lung cancer and MI - smoker, had open heart surgery ___ 
 
Physical Exam:
ADMISSION:
==========
VITALS - 98.2 152/86 88 32 100 ra  
General: Alert, oriented, no acute distress, tachypneic  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi, no steror over neck.   Abdomen: Soft, non-tender, 
distended ___ body habitus  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength B/L over ___, 4+ strength on 
left compared to ___ strength on right UE to abduction and 
extension against resistance, otherwise ___ strength B/L UE to 
digits. Intact sensation B/L UE and ___ to light touch.

DISCHARGE:
==========
Exam, on discharge:
Vitals: No vitals
General: Not responding, does not open eyes. resting comfortably
HEENT: Eyes closed
___: RRR s1 S2 present
Resp: Rapid shallow breaths
Ext: Warm, no edema
Neuro: Does not open eyes to voice or track
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:50AM BLOOD VitB12-654
___ 08:50AM BLOOD %HbA1c-5.8 eAG-120
___ 08:50AM BLOOD TSH-3.1
___ 08:50AM BLOOD ___
___ 08:50AM BLOOD CRP-49.2*
___ 08:50AM BLOOD HIV Ab-Negative
___ 06:27AM BLOOD RO & LA-Negative     
___ 08:50AM BLOOD SED RATE- HIGH   
___ 08:50AM BLOOD ANGIOTENSIN 1 - CONVERTING ___   
  
___ 03:08AM BLOOD WBC-11.0* RBC-4.50* Hgb-13.1* Hct-38.9* 
MCV-86 MCH-29.1 MCHC-33.7 RDW-15.1 RDWSD-47.8* Plt ___
___ 03:08AM BLOOD ___ PTT-28.9 ___
___ 03:08AM BLOOD Glucose-116* UreaN-31* Creat-1.9* Na-138 
K-3.7 Cl-105 HCO3-15* AnGap-22*
___ 03:08AM BLOOD ALT-16 AST-22 LD(LDH)-206 AlkPhos-119 
TotBili-0.9
___ 03:08AM BLOOD Albumin-4.4 Calcium-9.5 Phos-4.5 Mg-2.0 
UricAcd-9.0*

MICROBIOLOGY
============
all cultures of CSF, blood, urine, stool were negative.

DISCHARGE LABS
==============
No new labs

IMAGING
=======
___ MRI BRAIN W/CON
1. Examination is moderately limited by motion artifact. 
2. Areas of irregular subcortical white matter enhancement in 
the left frontal lobe and right occipital lobe, as described. 
Despite their size, these areas do not appear to exerts 
significant mass effect amount nor is there an area of 
surrounding prominent vasogenic edema as would be expected with 
metastatic lesions. Given this appearance, these likely 
represent late subacute to chronic infarcts with enhancement 
secondary to infarction. Short interval follow-up examination is 
recommended, as resolution of enhancement will confirm that 
these are infarct. 
3. Areas of signal abnormality in the right sub insular white 
matter, right basal ganglia and thalamus tracking into the 
corticospinal tract, suggestive of late subacute to chronic 
right MCA territory infarct with associated wallerian 
degeneration. 
4. No new enhancing mass, hemorrhage or acute infarct. 

___ Imaging MRI CERVICAL AND THORAC 
1. Mild changes of degenerative disc disease with disc 
protrusions and 
osteophytes encroaching on the cervical spinal cord. 
2. No abnormal enhancement. 

___ Imaging CT HEAD W/ CONTRAST 
1. Persistent hypodensities in the periventricular subcortical 
white matter. 
2. Persistent mild pattern of enhancement in the left frontal 
subcortical 
white matter, previously demonstrated by MRI of the brain 
3. Normal enhancement of the major intracranial vascular 
structures without evidence of obstruction. 

___ Imaging CT HEAD W/O CONTRAST 
1. Post biopsy changes including left parietal burr hole, left 
temporoparietal intraparenchymal hemorrhage and mild left 
temporoparietal subarachnoid hemorrhage. 
2. Stable persistent hypodensities in the periventricular 
subcortical white matter. 

___ Cardiovascular ECHO 
The left atrium is elongated. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (biplane 
LVEF 61%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
is not well seen. The mitral valve appears structurally normal 
with trivial mitral regurgitation. There is no pericardial 
effusion. 
 IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with preserved global biventricular systolic 
function. No definite valvular pathology or pathologic flow 
identified.  

___ Neurophysiology EEG 
This is an abnormal continuous ICU EEG monitoring study because 
of a poorly organized and slower than typical background with 
periods of 
bianterior rhythmic delta frequency slowing with triphasic 
morphology; this pattern is consistent with a mild to moderate 
encephalopathy, possibly related to metabolic factors. Compared 
to the prior day's recording, there are no significant changes. 
Findings were provided to the treating team intermittently 
during this recording period. 

___ Imaging CHEST (PORTABLE AP) 
Compared to chest radiographs ___. 
Nasogastric feeding tube ends in the upper stomach.  Right PIC 
line ends in the upper right atrium, partially withdrawn since 
___. 
Lateral aspect right chest is excluded from the examination 
which is centered in the paramedian  left upper abdomen.  Left 
pleural surfaces are normal.  Heart size top- normal.  Upper 
lungs clear. 
  
___ Imaging PORTABLE ABDOMEN 
No evidence of obstruction.

___ Imaging MR HEAD W & W/O CONTRAS 
1. Overall, minimal interval improvement in the extent of the 
previously noted areas of subcortical white matter enhancement 
left frontal lobe and right occipital lobe.  A 1.6 cm 
ring-enhancing lesion with internal  hemorrhage in the left 
frontal lobe, is likely sequelae of patient's biopsy as well as 
residual tumor. 
2. Apparent new foci of restricted diffusion is seen within the 
left 
periventricular region extending to the left thalamus/basal 
ganglia and along the corticospinal tracts to the left cerebral 
peduncle of the midbrain with surrounding FLAIR hyperintensity.  
This could be due to technical differences, posttreatment 
changes or increased cellularity in the lymphoma lesions. 
3. Unchanged areas of signal abnormality in the right subinsular 
white matter, right basal ganglia and thalamus tracking into the 
cortical spinal tract . 
4. No new areas of enhancement identified. 
 
Brief Hospital Course:
Mr. ___ is a ___ with h/o HTN, HLD, GERD, gout, ?carotid 
stenosis, s/p R THR in ___ c/b prosthetic hip infection 
requiring revision ___ at ___ (completed 6 week course of IV 
abx ___, RUL ___ s/p lobectomy, recent hospitalization for 
SOB with neg extensive evaluation, who presented with persistent 
tachypnea and intermitted neurologic deficits including L sided 
weakness and confusion, found to have diffuse brain lesions on 
MRI. His care was ultimately transitioned to comfort focused.

# Diffuse large B cell lymphoma/somnolence: diagnosed via brain 
biopsy after new lesions in left frontal lobe and right 
occipital lobe were seen on MRI. Pt initially presented with 
confusion, hyperreflexia, and clonus. Patient formerly only had 
Stage 1 cancer and is s/p lobectomy, making metastatic disease 
unlikely. MRI Brain +C (___) which revealed diffuse lesions 
including periventricular, brainstem, and cortical lesions of 
unclear etiology. MRI C/T Spine without lesions. Neurology was 
consulted and recommended spinal tap and extensive lab work-up. 
LP (___) with elevated protein and prelim cytology concerning 
for lymphoma, but insufficient fluid for diagnosis. Repeat 
(___) without definitive results from a hematopathology 
perspective. Lab work-up notable for normal B12, folate, TSH, 
ACE; RPR NR, ___, HSV, HIV, anti-Ro/La negative; elevated 
CRP/ESR. Stereotactic biopsy (___) revealed prelim path 
concerning for primary DLBCL, with cells infiltrating into the 
brain parenchyma and vascular walls but not into the vessel 
lumen. ___, VZV negative. Unfortunately, s/p biopsy the patient 
was somnolent, not following commands, and not able to wean from 
nasal trumpet, leading him to be transferred to ICU. In the ICU, 
pt remained obtunded; EEG was unrevealing and MRI showed some 
derangement of the basal ganglia. Pt was treated with high-dose 
methotrexate and concomitant sodium bicarbonate and leucovorin. 
Prognosis per neuro-oncology was very poor for regaining 
consciousness. Eventually decided to discontinue chemotherapy; 
second opinion was sought through ___, who felt there 
was no other reasonable treatment options. Pt made CMO with goal 
of getting to hospice and he was transferred to the medical 
floor and will ultimately be transferred to a hospice house.
 
# Dyspnea/tachypnea: Extensive work-up at ___ 
reportedly mostly wnl, including NCCTC, TTE, VQ, ABG (pAo2 98%), 
PFTs and ___ on right. He also had c-Anca, p-Anca titers sent 
which were all < 1:20. MRI brain (___) demonstrated brainstem 
lesions that may be leading to central hyperventilation from 
involvement of medial pontine tegmentum, which disrupts the 
cortical inhibitory effects of medullary respiratory center. 
There is no one treatment for central hyperventilation syndrome 
per case reports. A trial of morphine 2mg had little effect to 
suppress respiratory drive, so the patient was placed on a 
dilaudid PCA to ameliorate symptoms with minimal effect given 
limited patient participation. He was continued on standing nebs 
for symptomatic relief. Throughout admission, he was tachypneic 
and dyspneic but saturated 100% on RA. Eventually intubated for 
MRI on ___. Developed aspiration PNA, treated with course of 
vancomycin, ceftazidime, flagyl. Extubated per family's wishes, 
sent to medical floor for eventual transition to hospice.

#CKD: Baseline creatinine ~1.5. Due to this all of patient OSH 
imaging was done without contrast. On admission, Cr elevated to 
1.9 but subsequently downtrended to 1.4. Interestingly, patient 
had a jump from Cr ~ 0.9 to 1.5 starting in ___ of this year, it 
was initially worked up with Upep that was largely unrevealing. 
The patient's medications were renally dosed in house and his 
home diuretics were held. 

#Cytopenias: persistent once initiated on methotrexate - 
attributed to that.

#Upper airway congestion: ENT exam (___) acquired in the 
setting of stridor with thick, green secretions and dry mucosa. 
CXR (___) with no focal infiltrates, no fevers, no elevated 
WBC concerning for infection. Kept him on saline nebs Q6H and 
guaifenesin Q6H; received deep suctioning PRN.

# Anion gap metabolic acidosis: Likely compensatory for profound 
respiratory alkalosis ___ tachypnea. ABG performed at OSH was 
consistent with this given pH ~7.5 with low PaCO2. Eventually 
resolved (pt became very alkalemic with sodium bicarbonate given 
with methotrexate).

#Agitation episode (RESOLVED): Acute episode of agitation 
requiring restraints on ___, resolved s/p Ativan. Likely in 
the setting of known CNS lesions vs. cerebral vasoconstriction 
from profound respiratory alkalosis vs. hospitalization-related 
delirium. It did not recur.

# Elevated uric acid: Unclear source, however less likely TLS 
given no known malignancy. Was started on allopurinol; 
eventually resolved. 
 
# HTN: Home valsartan/hctz held due to elevated Cr. Did not 
require these meds throughout admission for HTN.

# GERD: Continued on home PPI.   

# HLD: Continued on home Atorvastatin.  

Transitional Issues:
=================================
#Goals of care: was very ongoing discussion with family while pt 
was in ICU. Eventually decided to make pt CMO and move to 
___ facility.
Code status: DNR/DNI
HCP: Daughter ___: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. valsartan-hydrochlorothiazide 160-12.5 mg oral DAILY 
3. Albuterol Inhaler 2 PUFF IH Q6H 
4. mometasone 100 mcg/actuation inhalation BID 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. LORazepam 0.5 mg PO Q8H:PRN tachypnea/amnxiety 
8. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Glycopyrrolate 0.1 mg IV Q6H:PRN excess secretions  
2.  LORazepam 0.5-2 mg IV Q4H:PRN anxiety, dyspnea, tachypnea  
3.  Morphine Sulfate ___ mg IV Q15MIN:PRN Pain or respiratory 
distress  
4.  Scopolamine Patch 1 PTCH TD Q72H  
5.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
6.  LORazepam 0.5-2 mg PO Q2H:PRN anxiety/distress  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
B cell lymphoma

SECONDARY: 
CKD
HTN
HLD
GERD

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital for your breathing and to 
evaluate new brain lesions found on prior imaging. Ultimately 
the progression of your disease left you unable to communicate. 
You were seen by the neuro-oncology team who determined that 
there is no further treatment to improve your symptoms. The 
focus of your care will now be to maintain your comfort.

It was a pleasure taking care of you. 

Your ___ Care Team. 
 
Followup Instructions:
___